US09303033B2
Synthesis of tert-butyl 4-(5-chloropyrazolo[1,5-a]pyrimidin-7-ylamino)piperidine-1-carboxylate
To the reaction flask, 5,7-dichloropyrazolo[1,5-a]pyrimidine (896 mg, 4.8 mmol) was added along with tert-butyl 4-aminopiperidine-1-carboxylate (954 mg, 4.8 mmol), triethylamine (664 μL, 4.8 mmol), and acetonitrile (16 mL). The reaction was heated at 100° C. for 12 hours then cooled to room temperature, diluted with water, filtered and washed with water. The product, tert-butyl 4-(5-chloropyrazolo[1,5-a]pyrimidin-7-ylamino)piperidine-1-carboxylate, was collected as a solid in quantitative yield and dried under vacuum overnight. LCMS (M+1=352)

reactant | 5,7-dichloropyrazolo[1,5-a]pyrimidine | 4.8 mmol, 896 mg | ClC1=NC=2N(C(=C1)Cl)N=CC2 | C6H3Cl2N3
reactant | tert-butyl 4-aminopiperidine-1-carboxylate | 4.8 mmol, 954 mg | NC1CCN(CC1)C(=O)OC(C)(C)C | C10H20N2O2
reactant | triethylamine | 4.8 mmol, 664 μL | C(C)N(CC)CC | C6H15N
reactant | acetonitrile | 16 mL | C(C)#N | C2H3N
solvent | water | O | H2O
product | tert-butyl 4-(5-chloropyrazolo[1,5-a]pyrimidin-7-ylamino)piperidine-1-carboxylate | quantitative yield | ClC1=NC=2N(C(=C1)NC1CCN(CC1)C(=O)OC(C)(C)C)N=CC2 | C16H22ClN5O2
